US04235838
By the procedure of Example 2 N-benzylpyrrolidone was reacted with o-phenylenediamine to yield 2-(3-benzylaminopropyl)benzimidazole.

reactant | N-benzylpyrrolidone | C(C1=CC=CC=C1)N1C(CCC1)=O | C11H13NO
reactant | o-phenylenediamine | C1(=C(C=CC=C1)N)N | C6H8N2
product | 2-(3-benzylaminopropyl)benzimidazole | C(C1=CC=CC=C1)NCCCC=1NC2=C(N1)C=CC=C2 | C17H19N3
